US06479536B1
4-Fluoro-N-[3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]benzamide
By using 3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-amine and 4-fluorobenzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 75%. Melting point: 232-234° C. (Ethyl acetate-hexane)

reactant | 3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-amine | FC1=CC=C(C=C1)C1=C(OC2=C1C(=C(C(=C2C)C)N)C)C | C18H18FNO
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-Fluoro-N-[3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]benzamide | Yield: 75% | FC1=CC=C(C(=O)NC=2C(=C(C3=C(C(=C(O3)C)C3=CC=C(C=C3)F)C2C)C)C)C=C1 | C25H21F2NO2
